US07589232B2
Step a) Formation of methyl 8-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-5,6,7,8-tetrahydronaphthalene-2-carboxylate
The titled compound was prepared following the procedure L using 4-[(4-butylphenyl)ethynyl]benzaldehyde and methyl 8-amino-5,6,7,8-tetrahydronaphthalene-2-carboxylate as a yellow oil (95%). 1H NMR (CDCl3, 300 MHz) δ 7.96 (d, J=1.7 Hz, 1H), 7.72 (dd, J=7.9, 1.7 Hz, 1H), 7.29-7.42 (m, 5H), 7.17 (d, J=2.8 Hz, 1H), 7.07 (m, 3H), 3.82 (m, 5H), 3.75 (m, 1H), 2.67-2.82 (m, 2H), 2.50 (m, 2H), 1.92 (m, 1H), 1.82 (m, 2H), 1.62 (m, 1H), 1.51 (m, 2H), 1.28 (m, 2H), 0.83 (m, 3H). M+ (ESI): 452.2. HPLC, Rt: 4.37 min (Purity: 60.1%).

reactant | 4-[(4-butylphenyl)ethynyl]benzaldehyde | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C=O)C=C1 | C19H18O
reactant | methyl 8-amino-5,6,7,8-tetrahydronaphthalene-2-carboxylate | NC1CCCC=2C=CC(=CC12)C(=O)OC | C12H15NO2
product | methyl 8-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-5,6,7,8-tetrahydronaphthalene-2-carboxylate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2CCCC=3C=CC(=CC23)C(=O)OC)C=C1 | C31H33NO2
